US05041543
1-(5-O-Acetyl-3-azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-5-methyl-4-(1,2,4-triazol-1-yl)-2(1H)-pyrimidinone
5'-O-Acetyl-3'-azido-3'-deoxythymidine was reacted with 5 equivalents of 1,2,4-triazole and two equivalents of 4-chlorophenyl dichlorophosphate in dry pyridine at ambient temperature for 10 days. Silica gel chromatography of the crude product using 1:1 EtOAc/hexane (v/v) followed by combination and evaporation of the appropriate fractions yielded an oil. Crystallization from EtOAc afforded the title compound as a solid 2.7 g (7.5 mMol; 60%); m.p.=143°-145° C. UV (nm): at pH 1λmax =324,245,215 (ε=9300, 10000, 20500), λmin =282,233 (ε=2100,8200); at pH 13λmax =276 (ε=6000), λmin =242 (ε=2000), H1NMR (DMSO-d6) δ9.34, 8.40(2s,2H, triazolyl), δ8.23(s,1H,H6), δ6.12(t, 1H, H1', J=6.16 Hz), β4.48-4.17(m, 4H, H3', H4', H5'), δ2.35(s, 3H, 5'-acetyl), δ2.07(s, 3H, 5CH3).

reactant | 5'-O-Acetyl-3'-azido-3'-deoxythymidine | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)N=[N+]=[N-] | C12H15N5O5
reactant | 1,2,4-triazole | 5 equivalents | N1N=CN=C1 | C2H3N3
reactant | 4-chlorophenyl dichlorophosphate | two equivalents | P(=O)(OC1=CC=C(C=C1)Cl)(Cl)Cl | C6H4Cl3O2P
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-(5-O-Acetyl-3-azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-5-methyl-4-(1,2,4-triazol-1-yl)-2(1H)-pyrimidinone | 7.5 mMol, 2.7 g, 60% | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(N=C(C(=C1)C)N1N=CN=C1)=O)N=[N+]=[N-] | C14H16N8O4
